US07208608B2
In the procedure described in Example 4, wherein a solution of calcium methanolate in methanol is used instead of calcium hydroxide for the conversion of the atorvastatin acid to its calcium salt, an analogous amount of amorphous atorvastatin is obtained after the processing described in Example 4.

reactant | calcium methanolate | C[O-].[Ca+2].C[O-]
reactant | atorvastatin acid | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | 2C33H35FN2O5
reactant | calcium | [Ca] | Ca
solvent | methanol | CO | CH4O
product | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
